US04960888
Preparation of 6-acetamido-1-acetoxy-1,2-dihydro-2-imino-4-piperidinopyrimidine
A mixture containing 0.5 g (0.0013 mole) of 6-acetamido-1-acetoxy-1,2-dihydro-2-imino-4-(4-toluenesulfonyloxy)pyrimidine in 20 ml of acetonitrile and 0.5 ml of piperidine is stirred at room temperature for 3 hours, then evaporated under reduced pressure. After adding 30 ml of ether to the residue, the crystalline precipitate is filtered, washed with ether and then with water, finally dried to give the aimed product in a yield of 0.24 g (64%), m.p.: 217°-218° C. (with decomposition).

reactant | 6-acetamido-1-acetoxy-1,2-dihydro-2-imino-4-(4-toluenesulfonyloxy)pyrimidine | 0.0013 mole, 0.5 g | C(C)(=O)NC1=CC(=NC(N1OC(C)=O)=N)OS(=O)(=O)C1=CC=C(C=C1)C | C15H16N4O6S
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 6-acetamido-1-acetoxy-1,2-dihydro-2-imino-4-piperidinopyrimidine | C(C)(=O)NC1=CC(=NC(N1OC(C)=O)=N)N1CCCCC1 | C13H19N5O3
